US09278938B2
The Reformatsky reagent was obtained according to the method described in Example 14. The obtained Reformatsky reagent (27.3 mL, corresponding to 2.5 eq.) was cooled to 0° C. or below, cinchonine (2.6 g, 8.9 mmol), pyridine (2.3 mL, 23.0 mmol) and THF (24 mL) were added thereto, and the mixture was stirred at the same temperature for 30 min. The reaction mixture was cooled to −25° C., N-methyl-6-((1-phenylsulfonyl-1H-imidazol-4-yl)carbonyl)-2-naphthamide (3.0 g, 7.2 mmol) was added thereto. The obtained reaction mixture was stirred at −20° C. for 1 hr. To the obtained reaction mixture was added the Reformatsky reagent (10.9 mL, corresponding to 1.0 eq.) at −25° C., and the mixture was stirred for 1.5 hr. The Reformatsky reagent (10.9 mL, corresponding to 1.0 eq.) was added again thereto −25° C., and the mixture was stirred for 1.5 hr. To the obtained reaction mixture were added ethyl acetate (42 mL) and 20 w/v % aqueous citric acid solution (42 mL) at 10° C. or below. The separated organic layer was washed successively with 10% sodium chloride-containing 20 w/v % aqueous citric acid solution (30 mL, twice) at 5° C., 5 w/v % aqueous sodium bicarbonate (30 mL, three times), and water (30 mL). The organic layer was concentrated to the volume of 18 mL under reduced pressure to give a residue. To the obtained residue was added methanol (30 mL), and the mixture was concentrated to the volume of 18 mL under reduced pressure to give a residue. To the residue was added methanol to adjust the volume to 30 mL. Water (3 mL) was added thereto at room temperature, and the mixture was stirred for 1 hr. Then water (21 mL) was added dropwise thereto at the same temperature, and the mixture was stirred. The obtained crystals were collected by filtration, and washed with a mixed solvent (9 mL) of methanol/water (1:3, volume ratio). The obtained wet crystals were dried under reduced pressure to give ethyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-phenylsulfonyl-1H-imidazol-4-yl)propanoate (3.2 g, 6.3 mmol). yield 88%. enantiomeric excess: 61% ee.

reactant | cinchonine | 8.9 mmol, 2.6 g | C=C[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C=3C=CN=C4C3C=CC=C4)O | C19H22N2O
reactant | pyridine | 23.0 mmol, 2.3 mL | N1=CC=CC=C1 | C5H5N
reactant | N-methyl-6-((1-phenylsulfonyl-1H-imidazol-4-yl)carbonyl)-2-naphthamide | 7.2 mmol, 3.0 g | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)S(=O)(=O)C1=CC=CC=C1 | C22H17N3O4S
reactant | citric acid | 42 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 21 mL | O | H2O
solvent | Water | 3 mL | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
solvent | ethyl acetate | 42 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | ethyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-phenylsulfonyl-1H-imidazol-4-yl)propanoate | 6.3 mmol, 3.2 g, yield 88% | O[C@](CC(=O)OCC)(C=1N=CN(C1)S(=O)(=O)C1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)C(=O)NC | C26H25N3O6S
